US04755212
Preparation of 2-(3-chloro-5-trifluoromethyl-2-pyridyloxy)nitrobenzene
This material was prepared in 63% yield from 3-chloro-2-fluoro-5-trifluoromethylpyridine and 2-nitrophenol following the general procedure outlined in Example 88. The product was isolated as an amber oil which was characterized by IR and 1H NMR spectroscopy.

reactant | 3-chloro-2-fluoro-5-trifluoromethylpyridine | ClC=1C(=NC=C(C1)C(F)(F)F)F | C6H2ClF4N
reactant | 2-nitrophenol | [N+](=O)([O-])C1=C(C=CC=C1)O | C6H5NO3
product | 2-(3-chloro-5-trifluoromethyl-2-pyridyloxy)nitrobenzene | 63% yield | ClC=1C(=NC=C(C1)C(F)(F)F)OC1=C(C=CC=C1)[N+](=O)[O-] | C12H6ClF3N2O3
